US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(4-chloro-2,3,5,6-tetrafluoro-phenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]-quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-8-(4-chloro-2,3,5,6-tetrafluorophenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (43 mg, 0.12 mmol), 0.3 mL of t-butanol, and potassium t-butoxide (40 mg, 0.36 mmol). Methyl iodide (0,022 mL, 0.36 mmol) was added and the mixture was stirred at room temperature for 4 h. The mixture was diluted with ethyl acetate, and purified by silica gel chromatography (ethyl acetate eluent) to give 30 mg (66%) of the title compound as an off-white solid. mp 150°-151°. FDMS: m/e=412 α[D]589 =+68.57 (c=0.12, chloroform).

reactant | (+)-(4aR)-(10bR)-8-(4-chloro-2,3,5,6-tetrafluorophenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.12 mmol, 43 mg | ClC1=C(C(=C(C(=C1F)F)C1=CC2=C([C@]3(CCC(N[C@@H]3CC2)=O)C)C=C1)F)F | C20H16ClF4NO
reactant | t-butanol | 0.3 mL | C(C)(C)(C)O | C4H10O
reactant | potassium t-butoxide | 0.36 mmol, 40 mg | CC(C)([O-])C.[K+]
reactant | Methyl iodide | 0.36 mmol, 0,022 mL | CI | CH3I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (+)-(4aR)-(10bR)-4-methyl-8-(4-chloro-2,3,5,6-tetrafluoro-phenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]-quinolin-3-one | 30 mg, 66% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=C(C(=C(C(=C3F)F)Cl)F)F)C)=O | C21H18ClF4NO
